US08012956B2
7-Methyl-1-benzofuran-6-carboxylic acid (synthesized in reagent preparation 15) (0.050 g, 0.28 mmol) was solubilized in anhydrous ethanol (2.0 mL) and 0.050 g of palladium (II) hydroxide (20%) was added. This mixture was shaken for 3 hours under 35 psi hydrogen gas using a Parr hydrogenator apparatus. The mixture was filtered through celite and concentrated in vacuo to give crude 7-methyl-2,3-dihydro-1-benzofuran-6-carboxylic acid (0.049 g, 97% yield) which was used without further purification. 1H NMR (400 MHz, d6-DMSO): 12.67 (broad s, 1H), 7.33 (d, 1H), 7.11 (d, 1H), 4.55 (t, 2H), 3.23 (t, 2H), 2.32 (s, 3H).

reactant | 7-Methyl-1-benzofuran-6-carboxylic acid | 0.28 mmol, 0.050 g | CC1=C(C=CC=2C=COC21)C(=O)O | C10H8O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
catalyst | palladium (II) hydroxide | 0.050 g | [OH-].[Pd+2].[OH-]
product | 7-methyl-2,3-dihydro-1-benzofuran-6-carboxylic acid | 0.049 g, 97% yield | CC1=C(C=CC=2CCOC21)C(=O)O | C10H10O3
